US07589095B2
D. 4-(3-cyclopentyl-phenyl)-6-propyl-pyrimidine-2-carbonitrile
A mixture of 1-cyclopentyl-3-iodo-benzene (158 mg, 0.58 mmol), 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile (150 mg, 0.48 mmol) and PdCl2(PPh3)2 (34 mg, 0.05 mmol) in dry DMF (3 ml) was heated to 80° C. for 6 h under a nitrogen atmosphere. More catalyst (40 mg, 0.06 mmol) was added and the mixture was heated for 12 h at 80° C. The solvent was removed under reduced pressure and the residue was partitioned between water (5 ml) and AcOEt (5 ml). The aqueous layer was extracted twice with AcOEt (2×5 ml). The combined organic layers were washed with brine, dried over MgSO4 and concentrated under reduced pressure to give 272 mg of crude product which was purified by silica gel chromatography (eluent:cyclohexane/AcOEt 95/5) to give the above titled compound: 51 mg, yield: 36%, HPLC: 98%.

reactant | 1-cyclopentyl-3-iodo-benzene | 0.58 mmol, 158 mg | C1(CCCC1)C1=CC(=CC=C1)I | C11H13I
reactant | 4-propyl-6-trimethylstannanyl-pyrimidine-2-carbonitrile | 0.48 mmol, 150 mg | C(CC)C1=NC(=NC(=C1)[Sn](C)(C)C)C#N
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.05 mmol, 34 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(3-cyclopentyl-phenyl)-6-propyl-pyrimidine-2-carbonitrile | yield: 36% | C1(CCCC1)C=1C=C(C=CC1)C1=NC(=NC(=C1)CCC)C#N | C19H21N3
